US07615642B2
2-tert-Butyl-N-methyl-N-(3-methylbutyl)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole-5-sulfonamide
Following the same procedure in Example 1, Step A, using 2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole-5-sulfonyl chloride (82 mg, 0.22 mmol), methyl (3-methylbutyl)amine (45 mg, 0.44 mmol) and DMAP (54 mg, 0.44 mmol) in MeCN (4 mL). The crude product was purified by MPLC using Hex/EtOAc (1:1) on silica gel to give 57 mg (60% yield) of a white solid as the title compound. 1H NMR (400 MHz, METHANOL-D4) δ 0.89 (d, J=6.64 Hz, 6 H), 1.39 (q, J=6.90 Hz, 2 H), 1.46-1.61 (m, 5 H), 1.64 (s, 9 H), 2.26-2.43 (m, 1 H), 2.70 (s, 3 H), 2.97-3.06 (m, 2 H), 3.29-3.38 (m, 2 H), 3.86-3.97 (m, 2 H), 4.48 (d, J=7.42 Hz, 2 H), 7.81 (dd, J=8.79, 1.76 Hz, 1 H), 7.96 (d, J=8.79 Hz, 1 H), 8.07 (d, J=1.37 Hz, 1 H); MS (ESI) (M+H)+=436.0; Anal. Calcd for C23H37N3O3S+0.70 TFA+0.30 EtOAc+0.5H2O (550.89): C, 55.82; H, 7.52; N, 7.63. Found: C, 55.90; H, 7.46; N, 7.63.

reactant | 2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole-5-sulfonyl chloride | 0.22 mmol, 82 mg | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)Cl | C17H23ClN2O3S
reactant | methyl (3-methylbutyl)amine | 0.44 mmol, 45 mg | CNCCC(C)C | C6H15N
catalyst | DMAP | 0.44 mmol, 54 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | MeCN | 4 mL | CC#N | C2H3N
product | 2-tert-Butyl-N-methyl-N-(3-methylbutyl)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole-5-sulfonamide | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)N(CCC(C)C)C | C23H37N3O3S
